US06583135B2
Preparation of 3-Benzyl-9-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A solution of lithium aluminum hydride (0.17 g, 4.45 mmol) in tetrahydrofuran (3.0 mL) and a solution of 3-benzoyl-9-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.17 g, 0.46 mmol) in tetrahydrofuran (5.0 mL) at 0° C. were reacted in a manner similar to Example 1 to give an oil. Column chromatography (silica gel, 10-50% EtOAc/heptane) afforded 0.113 g (71%) of the title compound as an oil. 1H NMR (300 MHz, CDCl3) δ 8.05, 7.66-7.57, 7.49, 7.45-7.30, 7.13-7.04, 3.98, 3.18-2.97; MS (EI) m/z 366 (M+); HRMS (FAB) calcd for C25H24N2+H: 353.2018, found: 353.2021.

reactant | lithium aluminum hydride | 4.45 mmol, 0.17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-benzoyl-9-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.46 mmol, 0.17 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC(=CC3C2CC1)C1=CC=CC=C1 | C25H22N2O
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 3-Benzyl-9-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.113 g, 71% | C(C1=CC=CC=C1)N1CCC=2NC=3C=CC(=CC3C2CC1)C1=CC=CC=C1 | C25H24N2
